US07622469B2
4-Octylamino-3,6-dihydro-6,6-dimethyl-2-hexylamino-1,3,5-triazine acetate
120 ml of methanol, 100 ml of acetone and 0.7 ml of concentrated hydrochloric acid were added to 10.0 g (27.0 mmol) of N1-octyl-N5-hexyl-biguanide dihydrochloride. The mixture was refluxed for 40 hours, and the solvent was distilled off under reduced pressure. To half amount of the residue were added 70 ml of ethanol, 46 ml of water and 6 ml of 5N sodium hydroxide, and the mixture was refluxed for 1 hour, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure. The residue was recrystallized from methyl ethyl ketone to obtain 3.7 g of colorless crystals having a melting point of 92 to 94° C.

reactant | methanol | 120 ml | CO | CH4O
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | N1-octyl-N5-hexyl-biguanide dihydrochloride | 27.0 mmol, 10.0 g | Cl.Cl.C(CCCCCCC)NC(=N)NC(=N)NCCCCCC
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-Octylamino-3,6-dihydro-6,6-dimethyl-2-hexylamino-1,3,5-triazine acetate | 3.7 g | C(C)(=O)O.C(CCCCCCC)NC=1NC(=NC(N1)(C)C)NCCCCCC | InChI=1S/C19H39N5.C2H4O2/c1-5-7-9-11-12-14-16-21-18-22-17(23-19(3,4)24-18)20-15-13-10-8-6-2;1-2(3)4/h5-16H2,1-4H3,(H3,20,21,22,23,24);1H3,(H,3,4)
